US08247403B2
(1) tert-butyl 9-(3,3-difluoropyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (328 mg, 1.04 mmol), 3,3-difluoropyrrolidine hydrochloride (150 mg, 1.04 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl(X-phos) m (39.8 mg, 0.0835 mmol), tris(dibenzylideneacetone)dipalladium(0) (19.0 mg, 0.0208 mmol) and sodium tert-butoxide (250 mg, 2.60 mmol) in toluene (10 ml) was stirred under an argon atmosphere at 100° C. for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (110 mg, 29.8%) as an oil.

reactant | tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.04 mmol, 328 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | 3,3-difluoropyrrolidine hydrochloride | 1.04 mmol, 150 mg | Cl.FC1(CNCC1)F
reactant | sodium tert-butoxide | 2.60 mmol, 250 mg | CC(C)([O-])C.[Na+]
reactant | water | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0208 mmol, 19.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 9-(3,3-difluoropyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 110 mg, 29.8% | FC1(CN(CC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)F | C18H24F2N2O3
